US06498179B1
Sodium hydride (60% dispersion in oil, 265 mg) was gradually added to a solution of N-(2-chloroethyl)-4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionamide (1.30 g) in N,N-dimethylformamide (30 ml), at room temperature. After stirring at room temperature for 3 hours, the reaction mixture was poured into ice water, and then extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried (MgSO4), and the solvent was evaporated. The crystals thus precipitated were collected by filtration to obtain 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[2-(2-oxazolin-2-yl)ethyl]oxazole (1.07 g, 91%). This was recrystallized from acetone-isopropyl ether to give colorless prisms. mp 119-120° C.

reactant | Sodium hydride | 265 mg | [H-].[Na+]
reactant | N-(2-chloroethyl)-4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionamide | 1.30 g | ClCCNC(CCC1=C(N=C(O1)N1C(=NC=C1)C)C1=CC=C(C=C1)Cl)=O | C18H18Cl2N4O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[2-(2-oxazolin-2-yl)ethyl]oxazole | 1.07 g, 91% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC=1OCCN1)N1C(=NC=C1)C | C18H17ClN4O2
